US08133998B2
To solution of 1-(3-chlorophenyl)piperazine hydrochloride (1.2 g, 5.2 mmol) in DCM (10 mL) was added triethylamine (1.0 mL, 7.3 mmol), EDC (1.9 g, 10 mmol), DMAP (cat.) and chloroacetic acid (0.4 g, 5.2 mmol). The reaction was stirred at RT overnight and DCM was removed. The resultant residue was partitioned between EtOAc (50 mL) and H2O (50 mL). The organic layer was dried over Na2SO4 and concentrated to provide 1.0 g of pure 2-chloro-1-(4-(3-chlorophenyl)piperazin-1-yl)ethanone, (yield: 70%).

reactant | 1-(3-chlorophenyl)piperazine hydrochloride | 5.2 mmol, 1.2 g | Cl.ClC=1C=C(C=CC1)N1CCNCC1
reactant | triethylamine | 7.3 mmol, 1.0 mL | C(C)N(CC)CC | C6H15N
reactant | EDC | 10 mmol, 1.9 g
reactant | chloroacetic acid | 5.2 mmol, 0.4 g | ClCC(=O)O | C2H3ClO2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-chloro-1-(4-(3-chlorophenyl)piperazin-1-yl)ethanone | 1.0 g, yield: 70% | ClCC(=O)N1CCN(CC1)C1=CC(=CC=C1)Cl | C12H14Cl2N2O
